US05624943
Under the conditions of example 1 D, 280 mg of 3-{6-[2-(4-methoxy-carbonylphenyl)-ethyl]-3-hydroxy-2-pyridyl}-propionic acid methyl ester is reacted with 220 mg of (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene, worked up, and the crude product is chromatographed on silica gel with hexane/0-10% ethyl acetate. 230 mg of 3-{6-[2-(4-methoxycarbonylphenyl)-ethyl]-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester of melting point 59°-61° C. is obtained.

reactant | 3-{6-[2-(4-methoxy-carbonylphenyl)-ethyl]-3-hydroxy-2-pyridyl}-propionic acid methyl ester | 280 mg | COC(CCC1=NC(=CC=C1O)CCC1C(C=C(C=C1)OC)=C=O)=O | C19H21NO5
reactant | (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene | 220 mg | BrCCCC/C=C/C1=CC=C(C=C1)OC | C13H17BrO
product | 3-{6-[2-(4-methoxycarbonylphenyl)-ethyl]-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester | 230 mg | COC(CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)CCC1=CC=C(C=C1)C(=O)OC)=O | C32H37NO6
